US04492702
4-Hydroxy-1-phenyl-3-(2-propenyl)-1,8-naphthyridin-2(1H)-one
A mixture of 6.0 g. of 4-acetoxy-1-phenyl-3-(2-propenyl)-1,8-naphthyridin-2(1H)-one, 200 ml. of ethanol and 40 ml. of 1N sodium hydroxide solution is stirred at room temperature for 22 hours. The ethanol is removed in vacuo and the remaining aqueous solution acidified with 1N hydrochloric acid. The product is filtered, washed with water and dried, weight 5.3 g., m.p. 248°-250° C. Recrystallization from chloroform yields the product of this example as a colorless solid, m.p. 250°-252° C.

reactant | 4-acetoxy-1-phenyl-3-(2-propenyl)-1,8-naphthyridin-2(1H)-one | C(C)(=O)OC1=C(C(N(C2=NC=CC=C12)C1=CC=CC=C1)=O)CC=C | C19H16N2O3
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 4-Hydroxy-1-phenyl-3-(2-propenyl)-1,8-naphthyridin-2(1H)-one | OC1=C(C(N(C2=NC=CC=C12)C1=CC=CC=C1)=O)CC=C | C17H14N2O2
